US04022786
When proceeding as described in Example 28, but replacing 3-(p-fluorobenzoyl)propyl iodide (used as the one reactant in said example) by 3-benzoylpropyl iodide and reacting 27.4 g. of said 3-benzoylpropyl iodide with 24.4 g. of 4,4-diphenylpiperidine, on addition of hydrochloric acid to the etheric solution of the diphenylpiperidine base 19.5 g. of 1-(3-benzoylpropyl)-4,4-diphenylpiperidine hydrochloride are obtained. On recrystallization from ethanol, the hydrochloride melts at 200° C.

reactant | 3-(p-fluorobenzoyl)propyl iodide | FC1=CC=C(C(=O)CCCI)C=C1 | C10H10FIO
reactant | 3-benzoylpropyl iodide | C(C1=CC=CC=C1)(=O)CCCI | C10H11IO
reactant | 4,4-diphenylpiperidine | C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | C17H19N
reactant | hydrochloric acid | Cl | ClH
reactant | diphenylpiperidine | 19.5 g | C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | C17H19N
product | 1-(3-benzoylpropyl)-4,4-diphenylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)CCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H29NO.ClH/c29-26(23-11-4-1-5-12-23)17-10-20-28-21-18-27(19-22-28,24-13-6-2-7-14-24)25-15-8-3-9-16-25;/h1-9,11-16H,10,17-22H2;1H
